US07358268B2
(v) 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-methoxymethyl-3H-imidazole-4-carboxylic acid
To a solution of 400 mg 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-methoxymethyl-3H-imidazole-4-carboxylic acid methyl ester in 5 ml THF and 1 ml water, 10.0 mg lithium hydroxide monohydrate were added. After stirring for 2 h at 60° C. the reaction was cooled to RT and concentrated under reduced pressure. The residue was acidified with half concentrated hydrochloric acid and filtered through a RP-18 cartridge eluting with H2O/MeCN gradient. The fractions containing the product were evaporated and lyophilized to yield a white solid.

reactant | 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-methoxymethyl-3H-imidazole-4-carboxylic acid methyl ester | 400 mg | COC(=O)C=1N(C(=NC1)COC)CC1=NOC(=C1)C=1SC(=CC1)Cl | C15H14ClN3O4S
reactant | lithium hydroxide monohydrate | 10.0 mg | O.[OH-].[Li+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-methoxymethyl-3H-imidazole-4-carboxylic acid | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=NC=C1C(=O)O)COC | C14H12ClN3O4S
